Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: UROLOGY
 
Allergies: 
Simvastatin / Dilantin Kapseal / Tegretol / Aspirin / Coumadin / 
Nsaids / IV Dye, Iodine Containing
 
Attending: ___.
 
Chief Complaint:
prostate cancer
 
Major Surgical or Invasive Procedure:
ROBOTIC ASSISTED LAPAROSCOPIC PROSTATECTOMY

 
History of Present Illness:
___ gentleman with a past medical  
 history of allergic rhinitis, asthma, GERD, 
hypercholesterolemia,  
 hypertension, vitamin D deficiency, BPH, ED, shoulder  
 osteoarthritis left, history of subarachnoid hemorrhage who  
 presents today with an elevated PSA of 5.1. It was previously  
 3.2 in ___ 

 
Past Medical History:
 Allergic rhinitis, asthma, GERD,  
 hypercholesterolemia, hypertension, vitamin D deficiency, BPH,  

 ED, shoulder osteoarthritis left, history of subarachnoid  
 hemorrhage.  
 Past Surgical History: Brain surgery for aneurysm in ___, c/b  

 seizures. No abdominal surgeries 

 
Social History:
___
Family History:
significant for prostate cancer in his father who  
 was diagnosed at age ___ and treated with hormones and is alive  

 and well at ___; however, he has several uncles both paternal 
and  
 maternal which prostate cancer as well as two uncles and a 
first  
 cousin which have passed away from prostate cancer. No bladder  

 cancer or kidney cancer.  

 
Physical Exam:
WDWN, NAD, AVSS
Abdomen soft, non-distended, appropriately tender along incision 
sites
Incisions C/D/I
JP drain has been removed. 
Foley in place, secured to medial thigh. 
Bilateral lower extremities w/out edema, pitting or pain to deep 
palpation of calves

 
Pertinent Results:
___ 08:05AM BLOOD WBC-12.2*# RBC-4.22*# Hgb-12.6*# 
Hct-37.2*# MCV-88 MCH-29.9 MCHC-33.9 RDW-12.6 RDWSD-40.5 Plt 
___
___ 08:05AM BLOOD Glucose-116* UreaN-15 Creat-0.8 Na-139 
K-4.1 Cl-103 HCO3-27 AnGap-13
 
Brief Hospital Course:
Mr. ___ was admitted to the Urology Service after undergoing 
robotic assisted laparoscopic prostatectomy. No concerning 
intra-operative events occurred; please see dictated operative 
note for full details.  The patient received ___ 
antibiotic prophylaxis.  At the end of the procedure the patient 
was extubated and transported to the PACU for further recovery 
before being transferred to the floor.  He was transferred from 
the PACU in stable condition. On POD0, pain was well controlled 
on PCA, hydrated with intravenous fluids for urine output 
>30cc/hour, provided with pneumoboots and incentive spirometry 
for prophylaxis, and he ambulated once. On POD1, the patient was 
restarted on home medications, basic metabolic panel and 
complete blood count were checked, pain control was transitioned 
from PCA to oral analgesics, diet was advanced to a clears/toast 
and crackers diet for breakfast and lunch.  Diet was advanced to 
regular after lunch and with further ambulation, the JP drain 
was removed.  Foley catheter care and leg bag teaching was 
provided by nursing. The remainder of the hospital course was 
unremarkable. The patient was discharged in stable condition, 
eating well, ambulating independently, and with pain control on 
oral analgesics. On exam, incision was clean, dry, and intact, 
with no evidence of hematoma collection or infection. The 
patient was given explicit instructions to follow-up in one week 
for post-operative evaluation and trial of voiding.

 
Medications on Admission:
Allergies: aspirin, Coumadin, Dilantin, IV dye 
iodine-containing, 
NSAIDs, simvastatin and Tegretol. 
Medications: albuterol, fluticasone salmeterol, Advair, 
hydrochlorothiazide, quinapril, Crestor, Flomax, Levitra and 
vitamin D3. 
 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q4H  
2.  Ciprofloxacin HCl 500 mg PO Q12H Duration: 3 Days 
Start the day before planned void trial/foley removal 
RX *ciprofloxacin HCl 500 mg ONE tablet(s) by mouth twice a day 
Disp #*6 Tablet Refills:*0 
3.  Docusate Sodium 100 mg PO BID 
Available OTC  
4.  OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN Pain - 
Moderate Duration: 25 Doses 
RX *oxycodone [Oxaydo] 5 mg 1 tablet(s) by mouth every six (6) 
hours Disp #*25 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PROSTATE CANCER

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-Please also reference the additional handout provided by your 
urologist with instructions and information about your surgery 
and post-operative plan of care.

-Please also reference the instructions provided by nursing on 
Foley catheter care, hygiene and waste elimination. 

-ALWAYS follow-up with your referring provider ___ your PCP 
to discuss and review your post-operative course and 
medications.  Any NEW medications should also be reviewed with 
your pharmacist.

-Resume your pre-admission medications except as noted AND you 
note that you NO longer need to take medications that shrink 
your prostate (Hytrin, Avodart, Flomax, etc.)

-You may take ibuprofen and the prescribed narcotic together for 
pain control. FIRST, use Tylenol and Ibuprofen. Replace Tylenol 
with prescribed narcotic (examples: Vicodin, Percocet) for break 
through pain that is >4 on the pain scale.

-The maximum dose of Tylenol (ACETAMINOPHEN) is 4 grams (from 
ALL sources) PER DAY.

-The prescribed pain medication may also contain 
Tylenol/acetaminophen so this needs to be considered when 
monitoring your daily dose and maximum.

-Ibuprofen should always be taken with food. If you develop 
stomach pain or note black stool, stop the Ibuprofen.  Ibuprofen 
works best when taken “around the clock.”

-For your safety and the safety of others; PLEASE DO NOT drive, 
operate dangerous machinery, or consume alcohol while taking 
narcotic pain medications. 

-Do NOT drive while Foley catheter is in place.

-Colace has been prescribed to avoid post surgical constipation 
and constipation related to narcotic pain medication. 
Discontinue if loose stool or diarrhea develops. Colace is a 
stool softener--it is NOT a laxative.

-You may shower 2 days after surgery, but do not tub bathe, 
swim, soak, or scrub incision for 2 weeks

-If you had a drain removed from your abdomen, bandage strips 
called “steristrips” have been applied to close the wound. Allow 
these bandage strips to fall off on their own ___ days).  
PLEASE REMOVE any remaining dressings w/ gauze within 2 days of 
discharge.  You may get the steristrips wet.

-No heavy lifting for 4 weeks (no more than 10 pounds). Light 
household chores are generally “ok”.  Fold laundry but ___ 
lift it. Wash/Dry dishes. Do not Vacuum. 

-___ medical attention for fevers (temp>101.5), worsening pain, 
drainage or excessive
bleeding from incision, chest pain or shortness of breath.

-Your Foley should be secured to the catheter secure on your 
thigh at ALL times until your follow up with the surgeon.

-Follow up in 1 week for wound check and Foley removal. DO NOT 
allow anyone that is outside of the urology team remove your 
Foley for any reason.

-Wear Large Foley bag for majority of time; the leg bag is only 
for short-term when leaving the house, etc.

-Take prescribed antibiotic for Foley catheter removal as 
directed

-resume regular home diet and remember to drink plenty of fluids 
to keep hydrated and to minimize risk of constipation. For the 
first few days at home, you should eat SMALL PORTIONS.  Avoid 
high fat, bulky or fried foods. 

-___ medical attention for fevers (temp>101.5), worsening pain, 
drainage or excessive bleeding from incision, chest pain or 
shortness of breath.
 
Followup Instructions:
___